US06248739B1
2-{[3-{[(4-Chlorobenzyl)amino]carbonyl}-6-(4-morpholinylmethyl)-4-oxo -1(4H)-quinolinyl]methoxy}ethyl benzoate
A suspension of N-(4-chlorobenzyl)-4-hydroxy-6-(4-morpholinylmethyl)-3-quinolinecarboxamide (0.41 gm) from Preparation No. 40 and cesium carbonate (0.65 gm) in DMF (5 mL) is treated with benzoyloxyethylchloromethylether (˜85%, 0.31 mL). The mixture is tightly capped and heated to 110° C. for 3 hrs. The reaction mixture is allowed to cool to room temperature, diluted with dichloromethane and washed with water (3×). The organic phase is washed with brine, dried (Na2SO4) and concentrated under reduced pressure. The crude product is purified by flash column chromatography eluting with 2% to 6% methanol in dichloromethane and then by recrystallization with acetonitrile to afford 0.08 gm of the title compound as a white solid.

reactant | N-(4-chlorobenzyl)-4-hydroxy-6-(4-morpholinylmethyl)-3-quinolinecarboxamide | 0.41 gm | ClC1=CC=C(CNC(=O)C=2C=NC3=CC=C(C=C3C2O)CN2CCOCC2)C=C1 | C22H22ClN3O3
reactant | cesium carbonate | 0.65 gm | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | benzoyloxyethylchloromethylether | 0.31 mL | C(C1=CC=CC=C1)(=O)OCCC(Cl)OC(CCOC(C1=CC=CC=C1)=O)Cl | C20H20Cl2O5
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | dichloromethane | ClCCl | CH2Cl2
product | 2-{[3-{[(4-Chlorobenzyl)amino]carbonyl}-6-(4-morpholinylmethyl)-4-oxo -1(4H)-quinolinyl]methoxy}ethyl benzoate | 0.08 gm | C(C1=CC=CC=C1)(=O)OCCOCN1C=C(C(C2=CC(=CC=C12)CN1CCOCC1)=O)C(=O)NCC1=CC=C(C=C1)Cl | C32H32ClN3O6
